US07345068B2
Lithium aluminium hydride (53 mg, 1.42 mmol) was added to a solution of methyl ester of [2-(4-pyridyl)-benzoxazol-7-yl]carboxylic acid (360 mg, 1.42 mmol) in tetrahydrofuran (15 ml) with stirring under ice cooling in 10 min. and the mixture was stirred at the same temperature for 0.5 hrs. To the reaction mixture were added dropwise at the same temperature 10% aqueous tetrahydrofuran (2 ml) and 30% aqueous solution of sodium hydroxide (0.5 ml) in turn, and the mixture was stirred at room temperature for 2 hrs. The resultant insoluble materials were filtered off, and the solvent was distilled off from the filtrate under reduced pressure. The residue was diluted with ethyl acetate and washed with water and brine in turn and then dried. The solvent was distilled off under reduced pressure, and the resultant crystals were triturated with a mixture of n-hexane/diisopropyl ether (1/1), filtered and dried to give [2-(4-pyridyl)-benzoxazol-7-yl]methanol (216 mg, 67%) as colorless crystals.

reactant | Lithium aluminium hydride | 1.42 mmol, 53 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [2-(4-pyridyl)-benzoxazol-7-yl]carboxylic acid | 1.42 mmol, 360 mg | N1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2C(=O)O | C13H8N2O3
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | [2-(4-pyridyl)-benzoxazol-7-yl]methanol | 216 mg, 67% | N1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2CO | C13H10N2O2
